US09375000B2
Step 3: Synthesis of [6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(tri-fluoromethyl)pyridin-3-yl]methanol
6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoromethyl)nicotinic acid (1.11 g) was dissolved in methylene chloride (30 ml), and to the solution was added oxalyl chloride (0.54 ml, 6.16 mmol) and one drop of dimethylformamide at room temperature. After stirring for 5 hours, the solvent and excess oxalyl chloride were distilled off under reduced pressure. The residue was dissolved in dioxane, added with water, and then added with sodium borohydride (0.23 g) at 0° C. The mixture was stirred for 2 hours at room temperature and added with diluted hydrochloric acid. The mixture was extracted with ethyl acetate, dried over magnesium sulfate and filtered. After concentration under reduced pressure, the target compound (0.98 g) was obtained by purification with silica gel column chromatography.

reactant | 6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoromethyl)nicotinic acid | 1.11 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=NC=C(C(=O)O)C(=C1)C(F)(F)F)C(F)(F)F)(F)F | C20H12F12N2O2
reactant | oxalyl chloride | 6.16 mmol, 0.54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | [6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(tri-fluoromethyl)pyridin-3-yl]methanol | 0.98 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CO)C(F)(F)F)C(F)(F)F)(F)F | C20H14F12N2O
